US05002966
5-[2-[[6-[[2-(4-Amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]ethyl]-2-thiophenecarboxylic acid
A solution of methyl 5-[2-[[6-[[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]ethyl]-2-thiophenecarboxylate (0.274 g) in a 2N sodium hydroxide solution (4.5 ml) and methanol (20 ml) was stirred at room temperature under nitrogen for 28 h. Dowex 50 (H+) methanol-washed ion exchange resin was added portionwise to neutralise the mixture to pH7. The mixture was filtered and evaporated in vacuo to give an orange solid. Trituration with hexane gave the title compound as a yellow solid (229 mg), m.p. 178°-185° (decomp).

reactant | methyl 5-[2-[[6-[[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]ethyl]-2-thiophenecarboxylate | 0.274 g | NC1=C(C=C(C=C1Cl)C(CNCCCCCCOCCC1=CC=C(S1)C(=O)OC)O)Cl | C22H30Cl2N2O4S
reactant | sodium hydroxide | 2N, 4.5 ml | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 5-[2-[[6-[[2-(4-Amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]ethyl]-2-thiophenecarboxylic acid | 229 mg | NC1=C(C=C(C=C1Cl)C(CNCCCCCCOCCC1=CC=C(S1)C(=O)O)O)Cl | C21H28Cl2N2O4S
